### PR TITLE
Add some common vectors and linear maps and also some example properties

### PR DESCRIPTION
**Pull request by jam-khan**
- [x] Added the inner product definitions to the commons
- [x] Added the properties defined on the projections

### CODE REVIEW

File: lean-veri/LeanVeri/Commons.lean [hunk 1]
```diff
@@ -0,0 +1,110 @@
...
+/-- ⟨0|0⟩ = 1 -/
+lemma inner_ket0_ket0 : @inner 𝕜 𝕜² _ ket0 ket0 = 1 :=
+  (inner_eq_one_iff_of_norm_one norm_ket0 norm_ket0).mpr rfl
+
+/-- ⟨1|1⟩ = 1 -/
+lemma inner_ket1_ket1 : @inner 𝕜 𝕜² _ ket1 ket1 = 1 :=
+  (inner_eq_one_iff_of_norm_one norm_ket1 norm_ket1).mpr rfl
+
+/-- ⟨+|+⟩ = 1 -/
+lemma inner_ketplus_ketplus : @inner 𝕜 𝕜² _ ketP ketP = 1 :=
```
Comment (IvanRenison) [inline lean-veri/LeanVeri/Commons.lean:105]:
```suggestion
lemma inner_ketplus_ketP : @inner 𝕜 𝕜² _ ketP ketP = 1 :=
```

File: lean-veri/LeanVeri/Commons.lean [hunk 2]
```diff
@@ -0,0 +1,110 @@
...
+  (inner_eq_one_iff_of_norm_one norm_ketP norm_ketP).mpr rfl
+
+/-- ⟨-|-⟩ = 1 -/
+lemma inner_ketplus_ketMinus : @inner 𝕜 𝕜² _ ketM ketM = 1 :=
```
Comment (IvanRenison) [inline lean-veri/LeanVeri/Commons.lean:109]:
```suggestion
lemma inner_ketplus_ketM : @inner 𝕜 𝕜² _ ketM ketM = 1 :=
```

**Review by IvanRenison — CHANGES_REQUESTED** [review]
We should be consistent with the names

**Comment by IvanRenison** [comment]
And, you need to add the new files to `LeanVeri.lean`

**Comment by IvanRenison** [comment]
Also, I think is better if we add the `commons` in this pull request and the properties in another

File: lean-veri/LeanVeri/Properties.lean [hunk 3]
```diff
@@ -0,0 +1,194 @@
...
+lemma zero_prod_identity (A : E →ₗ[𝕜] E) (_: LinearMap.isPositiveSemiDefinite A) :
+  TensorProduct.map (0 : F →ₗ[𝕜] F) A = 0 := by
+    rw [← TensorProduct.map_zero_left A]
+
+/-
+This lemma shows the `Prod_Zero_Identity` property `A ⊗ 0 = 0`.
+-/
+lemma prod_zero_identity (A : E →ₗ[𝕜] E) (_: LinearMap.isPositiveSemiDefinite A) :
+  TensorProduct.map A (0 : F →ₗ[𝕜] F) = 0 := by
+    rw [← TensorProduct.map_zero_right A]
```
Comment (IvanRenison) [inline lean-veri/LeanVeri/Properties.lean:184]:
```suggestion
lemma tmulmap_zero_right (A : E →ₗ[𝕜] E) : TensorProduct.map A (0 : F →ₗ[𝕜] F) = 0 :=
  TensorProduct.map_zero_right A
```

File: lean-veri/LeanVeri/Properties.lean [hunk 4]
```diff
@@ -0,0 +1,194 @@
...
+
+/-
+This lemma shows the `zero_prod_prod_zero_eqv` property `0 ⊗ A = A ⊗ 0`.
+-/
+lemma zero_prod_prod_zero_eqv (A :  E →ₗ[𝕜] E) (_: LinearMap.isPositiveSemiDefinite A) :
+  TensorProduct.map (0 : E →ₗ[𝕜] E) A  = TensorProduct.map A (0 : E →ₗ[𝕜] E) := by
+    rw [prod_zero_identity, zero_prod_identity]
+    repeat assumption
```
Comment (IvanRenison) [inline lean-veri/LeanVeri/Properties.lean:192]:
```suggestion
lemma zero_tmulmap_eq_tmulmap_zero (A :  E →ₗ[𝕜] E) :
    TensorProduct.map (0 : E →ₗ[𝕜] E) A  = TensorProduct.map A (0 : E →ₗ[𝕜] E) := by
  rw [prod_zero_identity, zero_prod_identity]
```

**Review by IvanRenison — COMMENTED** [review]
Also, if the idea of this file is to habe the lemmas from the paper exactly maybe you can put that in the description of the file

**Comment by IvanRenison** [comment]
Can you also add this lemmas in `Commons.lean`? I suggest adding them after `isSelfAdjoint_ketbra1`
```lean4
lemma isPositiveSemiDefinite_ketbra0 : @LinearMap.isPositiveSemiDefinite 𝕜 𝕜² _ _ _ _ ketbra0 :=
  isPositiveSemiDefinite_outerProduct_self 𝕜 ket0

lemma isPositiveSemiDefinite_ketbra1 : @LinearMap.isPositiveSemiDefinite 𝕜 𝕜² _ _ _ _ ketbra1 :=
  isPositiveSemiDefinite_outerProduct_self 𝕜 ket1
```

**Review by IvanRenison — APPROVED** [review]
